US08383821B2
tert-Butyl 4-phenyl-4-((3-(trifluoromethyl)-5-(5-(trifluoromethyl)-1H-tetrazol-1-yl)benzyloxy)methyl)piperidine-1-carboxylate.
tert-Butyl 4-phenyl-4-((3-(2,2,2-trifluoroacetamido)-5-(trifluoromethyl)benzyloxy)methyl)piperidine-1-carboxylate (100 mg, 0.18 mmol) in carbon tetrachloride (3 mL) was treated with triphenylphosphine (117 mg, 0.45 mmol) and heated at reflux overnight. After cooling to room temperature, the reaction was concentrated and the residue dissolved in dimethylformamide (2 mL). The mixture was treated with sodium azide (25 mg, 0.37 mmol) and stirred at room temperature for 5 h. The solvents were evaporated and the crude product purified by flash chromatography on silica gel (30% ethyl acetate/hexanes) to afford 46 mg (45%). 1H-NMR (CDCl3, 500 MHz) δ 7.61 (s, 1H), 7.59 (s, 1H), 7.30-7.32 (m, 2H), 7.23-7.26 (m, 2H), 7.12 (s, 1H), 7.05-7.08 (m, 1H), 4.51 (s, 2H), 3.74 (m, 2H), 3.46 (s, 2H), 2.99-3.03 (m, 2H), 2.21-2.24 (m, 2H), 1.79-1.84 (m, 2H), 1.42 (s, 9H). Mass spec.: 608.16 (MNa)+.

reactant | tert-Butyl 4-phenyl-4-((3-(2,2,2-trifluoroacetamido)-5-(trifluoromethyl)benzyloxy)methyl)piperidine-1-carboxylate | 0.18 mmol, 100 mg | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC(=CC(=C1)C(F)(F)F)NC(C(F)(F)F)=O | C27H30F6N2O4
reactant | triphenylphosphine | 0.45 mmol, 117 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium azide | 0.37 mmol, 25 mg | [N-]=[N+]=[N-].[Na+]
solvent | carbon tetrachloride | 3 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | tert-Butyl 4-phenyl-4-((3-(trifluoromethyl)-5-(5-(trifluoromethyl)-1H-tetrazol-1-yl)benzyloxy)methyl)piperidine-1-carboxylate | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC(=CC(=C1)N1N=NN=C1C(F)(F)F)C(F)(F)F | C27H29F6N5O3
